US04341784
A suspension of 10 g of 3-ethoxycarbonyl-1-ethyl-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-6-diazonium tetrafluoroborate in 300 ml of xylene was heated under reflux for 30 minutes. After evaporation of the xylene, the residue was taken up in chloroform. The chloroform solution was washed with water and the solvent was distilled off. The crude product was chromatographed on silica gel with chloroform as an eluent to give 3.6 g of ethyl 1-ethyl-6-fluoro-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-3-carboxylate, m.p. 181°-182° C.

reactant | 3-ethoxycarbonyl-1-ethyl-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-6-diazonium tetrafluoroborate | 10 g | F[B-](F)(F)F.C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)[N+]#N)OC)CC
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 1-ethyl-6-fluoro-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-3-carboxylate | 3.6 g | C(C)N1C=C(C(C2=CC(=C(N=C12)OC)F)=O)C(=O)OCC | C14H15FN2O4
